US07595327B2
According to the procedure of Example 10, Step 1, the reaction of 322.9 mg (2.5 mmol) of cis-2-amino-1-cyclopentane-carboxylic acid with 960.7 mg of 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride provided 927.7 mg of cis-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid in 84% yield. MS: 441.1 (M+H)+

reactant | cis-2-amino-1-cyclopentane-carboxylic acid | 2.5 mmol, 322.9 mg | N[C@@H]1[C@@H](CCC1)C(=O)O | C6H11NO2
reactant | 4-(2-methyl-quinolin-4-ylmethoxy)-benzenesulfonyl chloride hydrochloride | 960.7 mg | Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl
product | cis-2-[({4-[(2-methylquinolin-4-yl)methoxy]phenyl}sulfonyl)amino]cyclopentanecarboxylic acid | 927.7 mg, 84% yield | CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(C=C1)S(=O)(=O)N[C@@H]1[C@@H](CCC1)C(=O)O | C23H24N2O5S
